US07901867B2
1.1: Dithiodibenzoic acid-dimethylester
25 g (81.6 mmol) of dithiodibenzoic acid is refluxed in 60 ml of SOCl2 and 1.5 ml of dimethylformamide (DMF) for 3 hrs. Then the excess of SOCl2 is distilled off, and the residue is dissolved in CHCl3 and added dropwise to a solution of methanol (50 ml) and triethylamine (0.204 mol) in CHCl3 (300 l). After standing over night the reaction mixture is shaked with water and saturated K2CO3 solution. After drying the organic layer the solvent is evaporated and methanol is added to the residue (oil). 13.6 g (50%) of solid product is obtained.

reactant | dithiodibenzoic acid | 81.6 mmol, 25 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)O)C=CC=C1)(=O)O | C14H10O4S2
reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.204 mol | C(C)N(CC)CC | C6H15N
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | SOCl2 | 60 ml | O=S(Cl)Cl | Cl2OS
solvent | CHCl3 | 300 l | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | Dithiodibenzoic acid-dimethylester | 13.6 g, 50% | COC(C1=C(C=CC=C1)SSC1=C(C(=O)OC)C=CC=C1)=O | C16H14O4S2
